US06815458B2
To a solution of 1-benzyl-4-piperidone (1.74 g, 9.2 mmol) and 4-methylbenzylamine (0.97 g, 8 mmol) in methanol (30 ml) was added sodium borohydride (525 mg) in small portions over 30 min. The reaction mixture was stirred at room temperature. After 16 h, the mixture was concentrated. Water (30 ml) was added, and the mixture was extracted with dichloromethane (2×20 ml). The combined organic layers were dried (Na2SO4), filtered, and concentrated to give 4-((4-methylphenyl)methyl)amino-1-phenylmethylpiperidine. The crude product was used without further purification.

reactant | 1-benzyl-4-piperidone | 9.2 mmol, 1.74 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | 4-methylbenzylamine | 8 mmol, 0.97 g | CC1=CC=C(CN)C=C1 | C8H11N
reactant | sodium borohydride | 525 mg | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 4-((4-methylphenyl)methyl)amino-1-phenylmethylpiperidine | CC1=CC=C(C=C1)CNC1CCN(CC1)CC1=CC=CC=C1 | C20H26N2
